US06506733B1
A solution comprised of isopropyltriphenylphosphonium iodide (13.02 g, 30.1 mmol) in TBF (80 mL) was cooled to −78° C. and then n-butyllithium (12.44 mL, 2.5M in hexane) was added. The mixture was stirred for 5 minutes, heated to room temperature and stirred for an additional 25 minutes. Benzyl 1-(1-formyl-3-phenylpropylcarbamoyl)-3-methylbutylcarbamate (4.12 g, 10.04 mmol), prepared as in the procedure set forth in Synthesis, 1983, pp 676-678, was dissolved in THF (40mL) and the solution was added dropwise. The mixture was stirred for 18 hours at room temperature and then diluted with water (5 mL) and ethyl acetate (250 mL). The organic layer was washed with 1M hydrochloric acid, saturated aqueous sodium bicarbonate and brine, dried (MgSO4) and concentrated to dryness in vacuo. Product was purified from the residue by column chromatography using 20% ethyl acetate/hexane to provide benzyl 3-methyl-1-(3-methyl-1-phenethylbut-2-enylcarbamoyl)butylcarbamate (0.75 g, 1.68 mmol) as a clear oil.

reactant | isopropyltriphenylphosphonium iodide | 30.1 mmol, 13.02 g | [I-].C(C)(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 2.5M, 12.44 mL | C(CCC)[Li]
reactant | Benzyl 1-(1-formyl-3-phenylpropylcarbamoyl)-3-methylbutylcarbamate | 10.04 mmol, 4.12 g | C(=O)C(CCC1=CC=CC=C1)NC(=O)C(CC(C)C)NC(OCC1=CC=CC=C1)=O | C24H30N2O4
solvent | THF | 40mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | benzyl 3-methyl-1-(3-methyl-1-phenethylbut-2-enylcarbamoyl)butylcarbamate | 1.68 mmol, 0.75 g | CC(CC(C(NC(C=C(C)C)CCC1=CC=CC=C1)=O)NC(OCC1=CC=CC=C1)=O)C | C27H36N2O3
